US04522948
A mixture of diethyl 2-n-butyl-2-(cyclohexylmethyl)malonate (1.8 g) and potassium hydroxide (10 g) in water (10 ml) and methanol (10 ml) were heated under reflux for 4 hours. The methanol was evaporated under reduced pressure and the residue treated with water (50 ml), cooled to 0° C., and acidified with concentrated hydrochloric acid. The product was extracted with ethyl acetate and the extracts washed with brine, dried (MgSO4) and evaporated to give 2-n-butyl-2-(cyclohexylmethyl)malonic acid. Without further purification the acid was heated to about 160° until the evolution of carbon dioxide ceased, and cooled to give 2-(cyclohexylmethyl)hexanoic acid.

reactant | diethyl 2-n-butyl-2-(cyclohexylmethyl)malonate | 1.8 g | C(CCC)C(C(=O)OCC)(C(=O)OCC)CC1CCCCC1 | C18H32O4
reactant | potassium hydroxide | 10 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 2-n-butyl-2-(cyclohexylmethyl)malonic acid | C(CCC)C(C(=O)O)(C(=O)O)CC1CCCCC1 | C14H24O4
